US06696473B2
A. Preparation of 3-Benzyl-1-methyl-2-thioxoimidazolidin-4-one
To a solution of sarcosine methyl ester hydrochloride (0.56 g, 4.0 mmol) and DBU (0.60 mL, 4.0 mmol) in anhydrous ethanol added benzyl isothiocyanate (0.53 mL, 4.0 mmol). The resulting solution was heated at reflux 16 h, cooled, concentrated and chromatographed (silica gel, DCM) to give the title compound (0.88 g, quant.). 1H-NMR (CDCl3): δ 7.49-7.53 (2H, m), 7.28-7.35 (3H, m), 5.02 (2H, s), 4.03 (2H, s), 3.34 (3H, s).

reactant | sarcosine methyl ester hydrochloride | 4.0 mmol, 0.56 g | Cl.COC(CNC)=O
reactant | DBU | 4.0 mmol, 0.60 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzyl isothiocyanate | 4.0 mmol, 0.53 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | ethanol | C(C)O | C2H6O
product | 3-Benzyl-1-methyl-2-thioxoimidazolidin-4-one | 0.88 g | C(C1=CC=CC=C1)N1C(N(CC1=O)C)=S | C11H12N2OS
